US04939072
87 ml of water and 18.2 ml (0.218 mol) of 12N-HCl were added to the solution of 87 ml of chloroform and 8.65 g (0.0121 mol) of the white solid containing 3,5-dihexadecyloxycarbonylbenzenesulfonyl chloride, and then 7.93 g of zinc was added thereto at 5° C. followed by stirring for 4 hours and 30 minutes. After the insoluble component was removed therefrom, the sodlution was extracted with 100 ml of chloroform, washed with saturated brine, and dried with Glauber's salt. After removing Glauber's salt, the solution was concentrated under reduced pressure, and the residue was recrystalized from hot hexane to obtain a colorless crystal of 3,5-dihexadecyloxycarbonylbenzenesulfinic acid. (Yield: 4.43 g, 48% (based on sodium 3,5-dimethyloxycarbonylbenzenesulfonate), m.p.: 63°-65° C.)

reactant | water | 87 ml | O | H2O
reactant | HCl | Cl | ClH
reactant | 3,5-dihexadecyloxycarbonylbenzenesulfonyl chloride | C(CCCCCCCCCCCCCCC)OC(=O)C=1C=C(C=C(C1)C(=O)OCCCCCCCCCCCCCCCC)S(=O)(=O)Cl | C40H69ClO6S
catalyst | zinc | 7.93 g | [Zn] | Zn
solvent | chloroform | 87 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-dihexadecyloxycarbonylbenzenesulfinic acid | C(CCCCCCCCCCCCCCC)OC(=O)C=1C=C(C=C(C1)C(=O)OCCCCCCCCCCCCCCCC)S(=O)O | C40H70O6S
